// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=6.81081e-08 rise=2.72432e-10 fall=2.72432e-10 width=1.08973e-05 period=2.17946e-05

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=1e-05
r1 (mid out) resistor r=696.419
c1 (out 0) capacitor c=4.7e-11

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=5.44865e-06 errpreset=conservative maxstep=6.81081e-10

save in out
